US06897224B2
1.95 g of 7-amino-benzo[1,3]dioxole-4-carboxylic acid in 25 ml of hydrobromic acid (48%) and 20 ml of water are mixed at 0° C. with a solution of 760 mg of sodium nitrite in 4.2 ml of water. It is stirred for 15 minutes and then added to a solution of 2.07 g of copper(I) bromide in 5.5 ml of hydrobromic acid (48%). It is heated for 30 minutes to 100° C., added to water and extracted with ethyl acetate. It is washed with brine, dried with sodium sulfate and concentrated by evaporation in a vacuum. 2.88 g of 7-bromo-benzo[1,3]dioxole-4-carboxylic acid is obtained as a brown solid. The latter is reacted in 50 ml of DMF at 0° C. with 4.08 g of cesium carbonate and 0.8 ml of methyl iodide. It is stirred for 4 hours at room temperature, added to water, and extracted with ethyl acetate. It is washed several times with water and brine, dried and concentrated by evaporation in a vacuum. 1.81 g of 7-bromo-benzo[1,3]dioxole-4-carboxylic acid methyl ester is obtained as a red solid. The latter is dissolved in 5 ml of ether, and 10 ml of THF is added to a solution of 5.06 ml of methylmagnesium chloride (3 M in THF) and 6 ml of ether at room temperature. After 3.5 hours, the batch is added to 1N hydrochloric acid, extracted with ethyl acetate, washed with brine, dried and concentrated by evaporation in a vacuum. 1.79 g of 2-(7-bromo-1,3-benzodioxol-4-yl)-propan-2-ol is obtained as an orange-colored oil.

reactant | 7-amino-benzo[1,3]dioxole-4-carboxylic acid | 1.95 g | NC1=CC=C(C2=C1OCO2)C(=O)O | C8H7NO4
reactant | sodium nitrite | 760 mg | N(=O)[O-].[Na+]
reactant | hydrobromic acid | 25 ml | Br | BrH
reactant | hydrobromic acid | 5.5 ml | Br | BrH
solvent | water | 20 ml | O | H2O
solvent | water | 4.2 ml | O | H2O
catalyst | copper(I) bromide | 2.07 g | [Cu]Br
product | 7-bromo-benzo[1,3]dioxole-4-carboxylic acid | 2.88 g | BrC1=CC=C(C2=C1OCO2)C(=O)O | C8H5BrO4
